* a B source V() reference to a node that a later card defines, under distinguish
* The regression guard for Phase 3 gate 1's design, and the reason that gate
* cannot be closed by refusing to create the node.
*
* mkvnode() (src/spicelib/parser/inpptree.c:1249) is reached while B1's own
* card is being parsed, which is before the V1 and R1 cards that define 'Mid'
* have been seen.  The reference works only because INPtermInsert() creates
* the node and the later cards then find it.  Replace that call with
* INPtermSearch() (src/spicelib/parser/inpsymt.c:385), which is the obvious
* non-creating probe, and this deck stops solving: every forward reference in
* the tree breaks at once.  That is why the near-miss diagnostic is deferred
* to the end of the parse instead of being raised at the reference.
*
*   v(Mid)  1.500000e+00
*   v(Out)  3.000000e+00
*
* The reference is spelled in the same case as the definition, so this deck
* asserts nothing about case policy: it asserts that closing gate 1 did not
* cost the language a feature it has always had.  tests/regression/case has
* the preserve twins, bsource-forward-ref-case.cir and its -lower pair,
* because the same guarantee has to hold in the mode that has shipped decks.
.OPTIONS noacct
B1 Out 0 V={V(Mid)*2}
R2 Out 0 1k
V1 Mid 0 dc 1.5
R1 Mid 0 1k
.control
op
print v(Mid)
print v(Out)
.endc
.end
