* a B source V() reference that differs only in case from a real net
* Phase 3 gate 1.  mkvnode() (src/spicelib/parser/inpptree.c:1249) resolves a
* V() reference with INPtermInsert(), which creates the node on a miss.  Under
* distinguish 'In' and 'in' are two names, so V(in) against a deck that only
* ever wrote 'In' is a resolution miss and the parser mints a third node that
* no card defines.
*
* Three nodes, three assertions:
*
*   v(In)    1.500000e+00   the net the deck actually defined
*   v(hit)   3.000000e+00   B1 spells the reference exactly as the deck does,
*                           so it resolves and sees 1.5
*   v(miss)  0.000000e+00   B2 spells it 'in', which no card defines; the
*                           manufactured node sits at 0 and B2 doubles nothing
*
* Under fold or preserve 'in' and 'In' are one net and v(miss) would read
* 3.000000e+00 as well.  That is the value this deck exists to keep out: it is
* what a "fix" that quietly resolved the near-miss to the case variant would
* produce, and resolving it would be fold behaviour in the one mode that is
* defined not to fold.
*
* rshunt is what makes the evidence a number.  An expression reference
* contributes no conductance to the referenced node's own row, so without a
* shunt the manufactured node is genuinely isolated, the matrix is singular
* and the run aborts with
*   Warning: singular matrix:  check node in
* naming a node the deck never wrote.  A deck asserting a *missing* number
* would be weaker evidence and would couple this file to the gmin-stepping
* path; 1e9 puts the node on a DC path without moving any other voltage.
*
* The diagnostic this gate adds -- 'no node named ...; ... differs only in
* case' -- cannot be asserted here.  tests/bin/check.sh captures stdout only
* and its egrep -v filter drops every line containing Warning from both sides.
* It goes to stderr, per doc/claude/decisions/0001-distinguish.md decision 2,
* and is verified by hand and quoted in the commit that adds it.
.OPTIONS noacct rshunt=1e9
V1 In 0 dc 1.5
R1 In 0 1k
B1 hit 0 V={V(In)*2}
R2 hit 0 1k
B2 miss 0 V={V(in)*2}
R3 miss 0 1k
.control
op
print v(In)
print v(hit)
print v(miss)
.endc
.end
