* the raw header records the case mode the run that wrote it was reading
* under, when the session asks it to
* doc/claude/feedback/ngspice_upstream/FINDINGS.md finding 1, and
* doc/codex/issues/0061, which is the issue that ask kept alive.
*
* The line is opt-in, behind the 'casemodewrite' variable, and this deck
* writes the same plot twice so that both sides of the gate are asserted from
* one run: the first header is the header every ngspice has ever written and
* its line 5 is 'Flags:', the second carries the option line.  Off is the
* default because a file carrying the line can crash a released ngspice-46 --
* that binary's 'unset casemode' frees a node it left linked, which is
* doc/codex/issues/0067, fixed here and not in anything released -- so the
* line is not written into somebody else's crash unless this session asked
* for it.
*
* With 'casemodewrite' set, raw_write() (src/frontend/rawfile.c) emits
* 'Option: casemode=<mode>'
* immediately after the 'Plotname:' line.  The key is one every existing
* reader already parses -- a new 'Casemode:' key aborts the load, because the
* header loop ends in an else that calls any line it does not know a strange
* line -- and the place is after 'Plotname:' because the reader's Option: arm
* has no plot to file the pair into before that line and says so.
*
* The value is the mode in force, inp_case_mode_name()
* (src/frontend/inpcom.c), which is what 'curcasemode' answers and not what
* the 'casemode' variable holds: the variable is the request, and a request
* typed after the deck was read no longer describes the file that is being
* written (doc/codex/issues/0060).  Here the two agree, because this whole
* directory runs under '-D casemode=distinguish'
* (tests/regression/casedist/Makefile.am) and nothing moves it; the deck half
* that separates them is tests/regression/pipe/curcasemode-effect.cmd, and
* tests/regression/pipe/rawfile-casemode-header.cmd asserts this same round
* trip in all three modes.
*
* The last check is the client's ask end to end: unset the request, load the
* file back, and read the mode out of the header.  The unset is what makes the
* read live: with the request still set, '$casemode' would be answered by the
* session ahead of the file.  It does not have to precede the load -- an
* earlier draft of this comment said the loaded plot's environment makes the
* name read-only while that plot is current, which was true of 0061's first
* shape and is not true here: 0067's commit deleted that scan from
* cp_usrset(), so a file no longer decides what the session may set
* (doc/claude/decisions/0019).  Measured both ways against a file written
* under 'preserve' by a session requesting 'distinguish': the unset removes
* the name from the global list, where -D put it, and leaves the plot's
* environment holding the file's key, so either order reads 'preserve'.
*
* tests/bin/check.sh compares stdout only and filters every line holding
* 'Operating', so the Plotname: line itself cannot be echoed and is asserted
* through a token instead.  The line that matters is echoed whole: it holds
* no filtered word.
.OPTIONS noacct
V1 In 0 dc 1.5
R1 In Mid 1k
R2 Mid 0 1k
.control
op
set filetype=ascii

* the default: no option line, and line 5 is the Flags: line that has
* followed Plotname: since spice3
write rch_off.raw
set n0 = 1
set k4 = "no_line_read"
set k5 = "no_line_read"
fopen f0 rch_off.raw r
fread k1 $f0 n0
fread k2 $f0 n0
fread k3 $f0 n0
fread k4 $f0 n0
fread k5 $f0 n0
fclose $f0
strstr q4 "_$k4" "Plotname:"
if $q4 < 0
  echo HDR-OFF-LINE4-NOT-PLOTNAME
else
  echo HDR-OFF-LINE4-PLOTNAME
end
echo HDR-OFF-LINE5 $k5

set casemodewrite
write rch_hdr.raw

* five reads and no search: the position is the claim, so a line that
* appeared anywhere else must fail.  Line 4 is checked too, so a header that
* lost its Command: line fails as a broken harness and not as a lost option.
set n1 = 1
set l4 = "no_line_read"
set l5 = "no_line_read"
fopen f1 rch_hdr.raw r
fread l1 $f1 n1
fread l2 $f1 n1
fread l3 $f1 n1
fread l4 $f1 n1
fread l5 $f1 n1
fclose $f1
strstr p4 "_$l4" "Plotname:"
if $p4 < 0
  echo HDR-LINE4-NOT-PLOTNAME
else
  echo HDR-LINE4-PLOTNAME
end
echo HDR-LINE5 $l5

* and a consumer reads it back off the file
unset casemode
load rch_hdr.raw
echo CASEMODE-AFTER-LOAD $casemode
print v(Mid)
.endc
.end
